US07351719B2
122b) 2-(2-chloro-4-trifluoromethyl-phenoxy)-propionic acid
50 mL (0.100 mol) of 2 M aqueous NaOH solution was added to a solution of 14.00 g (0.047 mol) of ethyl 2-(2-chloro-4-trifluoromethyl-phenoxy)-propionate in 100 mL EtOH and the mixture was refluxed for 1 hour. EtOH was evaporated off i. vac., the residue was diluted with ice water and acidified with 2 M aqueous HCl. The precipitate formed was filtered off, washed with water and dried at 70° C. i. vac.

reactant | NaOH | 0.100 mol, 2 M, 50 mL | [OH-].[Na+]
reactant | ethyl 2-(2-chloro-4-trifluoromethyl-phenoxy)-propionate | 0.047 mol, 14.00 g | ClC1=C(OC(C(=O)OCC)C)C=CC(=C1)C(F)(F)F | C12H12ClF3O3
solvent | EtOH | 100 mL | CCO | C2H6O
product | 2-(2-chloro-4-trifluoromethyl-phenoxy)-propionic acid | ClC1=C(OC(C(=O)O)C)C=CC(=C1)C(F)(F)F | C10H8ClF3O3
